US09290468B2
Step 1: 5-(4-bromo-2-chlorophenyl)-4-fluoro-5H-imidazo[4′,5′:4,5]benzo[1,2-d]oxazol-6(7H)-one
To a solution of 5-((4-bromo-2-chlorophenyl)amino)-4-fluorobenzo[d]oxazole-6-carboxylic acid (110 mg, 0.28 mmol) in t-BuOH (3 mL) was added DPPA (94 mg, 0.34 mmol) followed by triethylamine (58 mg, 0.57 mmol). The mixture was heated under reflux for 3 h and allowed to slowly warm to room temperature. The solvent was removed in vacuo and the resultant crude product was purified by column chromatography on silica gel (petroleum ether/ethyl acetate, 2:1, v/v). The corresponding product was obtained (white solid, 105 mg, 96.2% yield). 1H NMR (400 MHz, DMSO-d6): δ 11.78 (s, 1H), 8.69 (s, 1H), 7.99 (d, 1H), 7.77 (d, 1H), 7.51 (m, 1H), 7.41 (s, 1H).

reactant | 5-((4-bromo-2-chlorophenyl)amino)-4-fluorobenzo[d]oxazole-6-carboxylic acid | 0.28 mmol, 110 mg | BrC1=CC(=C(C=C1)NC=1C(=CC2=C(N=CO2)C1F)C(=O)O)Cl | C14H7BrClFN2O3
reactant | DPPA | 0.34 mmol, 94 mg | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 0.57 mmol, 58 mg | C(C)N(CC)CC | C6H15N
solvent | t-BuOH | 3 mL | CC(C)(C)O | C4H10O
product | 5-(4-bromo-2-chlorophenyl)-4-fluoro-5H-imidazo[4′,5′:4,5]benzo[1,2-d]oxazol-6(7H)-one | 96.2% yield | BrC1=CC(=C(C=C1)N1C(NC2=CC3=C(N=CO3)C(=C21)F)=O)Cl | C14H6BrClFN3O2
